US06485886B1
(4-Diethoxythiophosphoryloxyimino-cyclohexa-2,5-dienylidene)-phenyl-acetonitrile
8 g (36 mmol) of (4-Hydroxyimino-cyclohexa-2,5-dienylidene)-phenyl-acetonitrile, prepared as described in example 1.1, are dissolved in 90 ml of tetrahydrofuran (THF) and cooled in an ice bath. After adding 7.5 g (39 mmol) of diethyl chlorothiophosphate to the solution, 5.4 g (54 mmol) of triethylamine are added dropwise, keeping the temperature below 5° C. The reaction mixture is gradually warmed to room temperature, and stirred overnight. The reaction mixture is poured into 100 ml of water, and extracted with ethyl acetate. The organic phase is washed with 0.1N hydrochloric acid solution, water, and sodium chloride solution. The organic phase is dried over MgSO4, the solvent is distilled off, and the residue is purified by flash chromatography on silica gel with ethyl acetate—hexane (1:3) as eluent. The product is a yellow solid, with mp 66-82° C. The structure is confirmed by the 1H-NMR spectrum (CDCl3); δ [ppm]: 1.32-1.42 (m, 6H), 4.21-4.37 (m, 4H), 6.87(Z)/6.98(E) (dd, 1H), 7.17(Z)/-7.19(E) (dd, 1H), 7.26(E)17.37(Z) (dd, 1H), 7.43-7.54 (m, 6H). 1H-NMR reveals that the product is a 56:44 mixture of Z and E isomers. The signals are tentatively assigned to Z and E isomers.

reactant | (4-Hydroxyimino-cyclohexa-2,5-dienylidene)-phenyl-acetonitrile | 36 mmol, 8 g | ON=C1C=CC(C=C1)=C(C#N)C1=CC=CC=C1 | C14H10N2O
reactant | diethyl chlorothiophosphate | 39 mmol, 7.5 g | P(=S)(OCC)(OCC)Cl | C4H10ClO2PS
reactant | triethylamine | 54 mmol, 5.4 g | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | (4-Diethoxythiophosphoryloxyimino-cyclohexa-2,5-dienylidene)-phenyl-acetonitrile | C(C)OP(=S)(OCC)ON=C1C=CC(C=C1)=C(C#N)C1=CC=CC=C1 | C18H19N2O3PS
